US05329033
10 ml (25 mmol) of a 2.5M solution of butyllithium in hexane were added to a solution of 3.1 g (8.3 mmol) of the ligand system a5 in 30 ml of diethyl ether at room temperature under Ar protection. An orange coloration initially occurred, and after 45 minutes the solution became cloudy. After the mixture had been stirred overnight, 10 ml of hexane were added to the now beigecolored suspension and the mixture was filtered over a G3 frit. The precipitate was washed with 20 ml of hexane and dried under an oil pump vacuum for a long period of time. The virtually colorless powder was added rapidly to a suspension of 1.8 g (7.72 mmol) of zirconium tetrachloride in 30 ml of methylene chloride at -78° C. The mixture was warmed to room temperature in the course of 1-2 hours and, after stirring at room temperature for 30 minutes, was evaporated completely. The residue was dried under an oil pump vacuum and was first washed with 60 ml of hexane. The product was then isolated by extraction several times with a total of 180 ml of toluene. The combined extracts were concentrated and left to crystallize at -35° C. The first fraction gave 0.76 g of zirconocene A in the pure racemic form (orange-colored crystals ). The subsequent fractions contained an increasing amount of the meso form. 1.78 g (43% ) of compound A were isolated in total. 1H-NMR (CDCl3) of the racemate: 6.85-7.55 (m,6,aromatic H), 6.80 (s,2,β-H), 2.72 (q,4,CH2), 2.20 (s,6,CH3), 1.30 (t,6,CH3), 1.27 (s,6,Si-CH3).

reactant | butyllithium | C(CCC)[Li]
reactant | zirconium tetrachloride | 7.72 mmol, 1.8 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | hexane | CCCCCC | C6H14
reactant | hexane | 10 ml | CCCCCC | C6H14
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | zirconocene | 0.76 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2] | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
